US09403773B2
Triethylamine (2.90 ml, 21.4 mmol) and phenyl chlorocarbonate (2.52 ml, 20.0 mmol) were added to a dioxane solution (43 ml) of 3-(4-fluoro-2-nitrophenoxy)propylamine (4.03 g, 18.8 mmol), while being cooled with ice, and the mixture was stirred at room temperature for 0.5 hours. The reaction mixture was concentrated under reduced pressure, and the residue was then purified by silica gel column chromatography (dichloromethane:ethyl acetate=30:1). The purified product was concentrated to dryness under reduced pressure to thereby obtain 5.92 g of powdery yellow phenyl[3-(4-fluoro-2-nitrophenoxy)propyl]carbamate (yield: 94%).

reactant | Triethylamine | 21.4 mmol, 2.90 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chlorocarbonate | 20.0 mmol, 2.52 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | 3-(4-fluoro-2-nitrophenoxy)propylamine | 18.8 mmol, 4.03 g | FC1=CC(=C(OCCCN)C=C1)[N+](=O)[O-] | C9H11FN2O3
solvent | dioxane | 43 ml | O1CCOCC1 | C4H8O2
product | phenyl[3-(4-fluoro-2-nitrophenoxy)propyl]carbamate | 5.92 g, yield: 94% | C1(=CC=CC=C1)OC(NCCCOC1=C(C=C(C=C1)F)[N+](=O)[O-])=O | C16H15FN2O5
